US05204462
Triethylamine (23.1 ml) and hexanoyl chloride (11.4 ml) were added dropwise to a methylene chloride solution (300 ml) of L-proline benzylester hydrochloride (20.00 g) under ice cooling, and the mixture was stirred at room temperature for 1.5 hours. The reaction mixture was successively washed with 1N hydrochloric acid, saturated sodium hydrogencarbonate, and brine, dried over magnesium sulfate, and concentrated to obtain 26.20 g of N-hexanoyl-L-proline benzyl ester.

reactant | Triethylamine | 23.1 ml | C(C)N(CC)CC | C6H15N
reactant | hexanoyl chloride | 11.4 ml | C(CCCCC)(=O)Cl | C6H11ClO
reactant | L-proline benzylester hydrochloride | 20.00 g | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | N-hexanoyl-L-proline benzyl ester | 26.20 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C(CCCCC)=O)=O | C18H25NO3
